### PR TITLE
generalize leq_bigmax_cond

### PR DESCRIPTION
**Pull request by affeldt-aist**
##### Motivation for this change

We happened to have a use for a version of `leq_bigmax` over an `eqType`
(here
https://github.com/affeldt-aist/infotheo/blob/56a667c1421a9eb7a62593512a609711c0938f4f/ecc_modern/ldpc_algo_proof.v#L72-L73)
Would this "generalization" make sense?

##### Things done/to do

- [x] added corresponding entries in `CHANGELOG_UNRELEASED.md` (do not edit former entries)
~~- [ ] added corresponding documentation in the headers~~

##### Automatic note to reviewers

Read [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-following,-reviewing-and-playing-with-a-PR#checklist-for-reviewing-a-pr) and make sure there is a milestone.

### CODE REVIEW

**Comment by chdoc** [comment]
This generalization certainly makes sense. In fact, coq-communnity/reglang uses an eqType version of `bigmax_sup`:
```
Lemma bigmax_seq_sup (T : eqType) (s:seq T) (P : pred T) F k m :
  k \in s -> P k -> m <= F k -> m <= \max_(i <- s | P i) F i.
Proof. move => A B C. by rewrite (big_rem k) //= B leq_max C. Qed.
```
So maybe it's a good idea do generalize that as well.

**Comment by affeldt-aist** [comment]
Great. I'll look at more potential such generalization about \max and turn this draft PR into a genuine one asap. Thank you.

File: mathcomp/ssreflect/bigop.v [hunk 1]
```diff
@@ -1982,10 +1982,14 @@ Lemma prodn_gt0 I r (P : pred I) F :
   (forall i, 0 < F i) -> 0 < \prod_(i <- r | P i) F i.
 Proof. by move=> Fpos; apply: prodn_cond_gt0. Qed.
 
-Lemma leq_bigmax_cond (I : finType) (P : pred I) F i0 :
-  P i0 -> F i0 <= \max_(i | P i) F i.
-Proof. by move=> Pi0; rewrite (bigD1 i0) ?leq_maxl. Qed.
-Arguments leq_bigmax_cond [I P F].
+Lemma leq_bigmax_cond (I : eqType) r (P : pred I) F i0 :
+  i0 \in r -> P i0 -> F i0 <= \max_(i <- r | P i) F i.
```
Comment (CohenCyril) [inline mathcomp/ssreflect/bigop.v:1986]: Nope, if you want to do this generalization, you should go all the way to `Type` and not include the `i \in r` condition, which can be recovered through `big_mkcond` whenever needed.

File: mathcomp/ssreflect/bigop.v [hunk 2]
```diff
@@ -1982,33 +1982,41 @@ Lemma prodn_gt0 I r (P : pred I) F :
...
+Proof.
+move=> + Pi0; elim: r => // h t ih; rewrite inE big_cons.
+move=> /predU1P[<-|i0t]; first by rewrite Pi0 leq_maxl.
+by case: ifPn => Ph; [rewrite leq_max ih// orbT|rewrite ih].
+Qed.
+Arguments leq_bigmax_cond [I r P F].
 
-Lemma leq_bigmax (I : finType) F (i0 : I) : F i0 <= \max_i F i.
+Lemma leq_bigmax (I : eqType) r (P : pred I) F (i0 : I) :
+  i0 \in r -> P i0 -> F i0 <= \max_(i <- r | P i) F i.
```
Comment (proux01) [inline mathcomp/ssreflect/bigop.v:1995]: Isn't this redundant with `leq_bigmax_cond`?

File: mathcomp/ssreflect/bigop.v [hunk 3]
```diff
@@ -1982,33 +1982,42 @@ Lemma prodn_gt0 I r (P : pred I) F :
   (forall i, 0 < F i) -> 0 < \prod_(i <- r | P i) F i.
 Proof. by move=> Fpos; apply: prodn_cond_gt0. Qed.
 
+Lemma leq_bigmax (I : eqType) r (P : pred I) F i0 :
+  i0 \in r -> P i0 -> F i0 <= \max_(i <- r | P i) F i.
```
Comment (CohenCyril) [inline mathcomp/ssreflect/bigop.v:1986]: This is the lemma with the "correct" generality, which should bear the name `leq_bigmax`
```suggestion
Lemma leq_bigmax (I : Type) r (P : {pred I}) F i0 :
  P i0 -> F i0 <= \max_(i <- r | P i) F i.
```
Now, if you also want the specialization to an `eqType` and the `i0 \in r`, you can name it `leq_bigmax_seq`.

File: mathcomp/ssreflect/bigop.v [hunk 4]
```diff
@@ -1982,33 +1982,42 @@ Lemma prodn_gt0 I r (P : pred I) F :
...
 Arguments leq_bigmax_cond [I P F].
 
-Lemma leq_bigmax (I : finType) F (i0 : I) : F i0 <= \max_i F i.
-Proof. exact: leq_bigmax_cond. Qed.
-Arguments leq_bigmax [I F].
-
-Lemma bigmax_leqP (I : finType) (P : pred I) m F :
-  reflect (forall i, P i -> F i <= m) (\max_(i | P i) F i <= m).
+Lemma bigmax_leqP (I : eqType) r (P : pred I) m F :
+  reflect (forall i, i \in r -> P i -> F i <= m) (\max_(i <- r | P i) F i <= m).
```
Comment (CohenCyril) [inline mathcomp/ssreflect/bigop.v:2001]: I'd keep the previous one as such, and add `_seq` variants. And I would prove them using `big_nth`.

File: mathcomp/ssreflect/bigop.v [hunk 5]
```diff
@@ -1982,33 +1982,42 @@ Lemma prodn_gt0 I r (P : pred I) F :
...
 Qed.
 
-Lemma bigmax_sup (I : finType) i0 (P : pred I) m F :
-  P i0 -> m <= F i0 -> m <= \max_(i | P i) F i.
-Proof. by move=> Pi0 le_m_Fi0; apply: leq_trans (leq_bigmax_cond i0 Pi0). Qed.
-Arguments bigmax_sup [I] i0 [P m F].
+Lemma bigmax_sup (I : eqType) r i0 (P : pred I) m F :
+  i0 \in r -> P i0 -> m <= F i0 -> m <= \max_(i <- r | P i) F i.
+Proof. by move=> i0r Pi0 ?; apply: leq_trans (leq_bigmax i0 _ _). Qed.
+Arguments bigmax_sup [I r] i0 [P m F].
```
Comment (CohenCyril) [inline mathcomp/ssreflect/bigop.v:2013]: Same as for `leq_bigmax`

File: mathcomp/ssreflect/bigop.v (hunk 3 above)
Comment (proux01) [reply mathcomp/ssreflect/bigop.v:1986]: Maybe we can still have this named with `_seq` for uniformity, and no `leq_bigmax`?

Comment (CohenCyril) [reply mathcomp/ssreflect/bigop.v]: Then use `nilp r`

Comment (ybertot) [reply mathcomp/ssreflect/bigop.v]: How about something like "has P r"

Comment (ybertot) [reply mathcomp/ssreflect/bigop.v]: Sorry I misread the statement, I thought i0 was used only in hypotheses.

Comment (CohenCyril) [reply mathcomp/ssreflect/bigop.v]: I see! I think I did the same mistake as Yves.

File: mathcomp/ssreflect/bigop.v (hunk 4 above)
Comment (affeldt-aist) [reply mathcomp/ssreflect/bigop.v]: I have added the `_seq` variants but did not figure out how to prove them using `big_nth`.

**Comment by proux01** [comment]
It seems we reached a consensus here. I'll merge by the end of the week if there is no further comment.
